* C:\Users\aryam\OneDrive\Documents\LTspiceXVII\Draft4.asc
V1 N001 0 SINE(0 5 100)
V2 N002 0 2
R1 V_out N001 1K
D1 V_out N002 1N914
.model D D
.lib C:\Users\aryam\OneDrive\Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 0 100m 0.1m 1
.backanno
.end
