* C:\Users\aryam\OneDrive\Documents\LTspiceXVII\Draft5.asc
V1 N001 0 SINE(0 5 100)
C1 V_out N001 330µ V=50 Irms=1.2 Rser=0.08 Lser=0 mfg="Panasonic" pn="ECA1HFQ331" type="Al electrolytic"
R1 V_out 0 10k
V2 N002 0 0
D1 N002 V_out 1N914
.model D D
.lib C:\Users\aryam\OneDrive\Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 0 100m 0m 1m
* ARYAMAN MISHRA 19BCE1027
.backanno
.end
